data/rdb19/train.csv
rxn,smiles,ea
4208,[C:16]([C:17]([C:18]([C:19]([H:29])([H:30])[H:31])[C:20](=[O:21])[O:22][C:23]([H:32])([H:33])[H:34])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:16]([C:17]([C:18](=[C:19]([H:29])[H:31])[C:20](=[O:21])[O:22][C:23]([H:32])([H:33])[H:34])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:11])[H:12])([C:7]([H:13])([H:14])[H:15])[H:30])([H:8])([H:9])[H:10],37.93589956633514
1099,[C:14]([C:15]([C:16]([C:17]([H:27])([H:28])[H:29])([N:18]([C:19](=[O:20])[H:31])[H:30])[H:26])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2]([C:3]([H:4])([H:5])[C:16]([C:15]([C:14]([H:21])([H:22])[H:23])([H:24])[H:25])([C:17]([H:27])([H:28])[H:29])[H:26])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11].[N:18]([C:19](=[O:20])[H:31])[H:30],64.95399712095968
4883,[C:15](=[C:16]([N:17]([C:18](=[O:19])[H:24])[H:23])[H:22])([H:20])[H:21].[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:6])[H:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:6])([H:7])[C:16]([C:15]([H:20])[H:21])([N:17]([C:18](=[O:19])[H:24])[H:23])[H:22])[H:11])([H:8])([H:9])[H:10],19.51839751226362
1318,[C:10]([C:11]([C:12]([H:13])[H:14])([C:15](=[O:16])[O:17][H:22])[H:21])([H:18])([H:19])[H:20].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[O:1]([C:2]([O:3][C:12]([C:11]([C:10]([H:18])([H:19])[H:20])([C:15](=[O:16])[O:17][H:22])[H:21])([H:13])[H:14])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6],26.91800290707033
2713,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([O:21][C:22](=[O:23])[C:24](=[C:25]([H:30])[H:31])[C:26]([H:32])([H:33])[H:34])([H:27])([H:28])[H:29]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])=[C:8]([C:9]([H:17])([H:18])[H:19])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:15][C:25]([C:24]([C:22]([O:21][C:20]([H:27])([H:28])[H:29])=[O:23])[C:26]([H:32])([H:33])[H:34])([H:30])[H:31],29.38015417207498
1615,[C:15]([O:16][C:17](=[O:18])[C:19](=[C:20]([H:25])[H:26])[C:21]([H:27])([H:28])[H:29])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:15]([O:16][C:17](=[O:18])[C:19](=[C:20]([H:25])[H:26])[C:21]([H:28])[H:29])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])([H:5])[H:27])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11],17.78073917212896
5041,[C:11]([C:12]([C:13]([H:14])[c:15]1[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]([H:29])[c:20]1[H:30])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:1]([H:5])([H:6])([H:7])[C:13]([C:12]([C:11]([H:21])([H:22])[H:23])([H:24])[H:25])([H:14])[c:15]1[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]([H:29])[c:20]1[H:30].[O:2][C:3](=[C:4]([H:9])[H:10])[H:8],54.1124238090124
3615,[C:17](=[C:18]([c:19]1[c:20]([H:28])[c:21]([H:29])[c:22]([H:30])[c:23]([H:31])[c:24]1[H:32])[H:27])([H:25])[H:26].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])=[C:5]([H:6])[H:7])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][C:17]([C:18]([c:19]1[c:20]([H:28])[c:21]([H:29])[c:22]([H:30])[c:23]([H:31])[c:24]1[H:32])[H:27])([H:25])[H:26],28.87305456044851
1643,[C:15]([O:16][C:17](=[C:18]([H:23])[H:24])[H:22])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2](=[C:3]([H:4])[H:5])[C:6](=[O:7])[N:8]([H:13])[H:14])([H:9])([H:10])[H:11].[H:12][C:15]([H:19])([H:20])[H:21].[O:16][C:17](=[C:18]([H:23])[H:24])[H:22],70.54128650360508
165,[C:12](=[C:13]([c:14]1[c:15]([H:23])[c:16]([H:24])[c:17]([H:25])[c:18]([H:26])[c:19]1[H:27])[H:22])([H:20])[H:21].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[C:18]1([H:26])[C:17]([H:25])=[C:16]([H:24])[C:15]([H:23])=[C:14]([C:13](=[C:12]([H:20])[H:21])[H:22])[C:19]1[H:27])([H:6])([H:7])[H:8],24.156585364311468
2924,[C:16]([C:17]([C:18]([C:19]([H:26])([H:27])[H:28])[C:20]([H:29])([H:30])[H:31])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:16]([C:17]([C:18]([C:19]([H:26])([H:27])[H:28])=[C:20]([H:30])[H:31])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([H:12])[H:29])([H:8])([H:9])[H:10].[O:3]([C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])[H:11],66.9916205809568
2858,[C:1]([C:2]([O:3][C:4]([O:5])([C:6](=[C:7]([H:14])[H:15])[H:13])[O:18][O:17][C:16]([H:19])([H:20])[H:21])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4](=[O:5])([C:6](=[C:7]([H:14])[H:15])[H:13])[O:18][O:17][C:16]([H:19])([H:20])[H:21],14.015952070360072
